US07208524B2
A mixture of 0.169 g of [2-[2-(5-cyano-2-methoxybenzene-sulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid, 41.8 mg of ammonium chloride, 79.2 mg of 1-hydroxybenzotriazole monohydrate, 0.272 mL of N,N-diisopropylethylamine and 0.112 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride was stirred at room temperature for 27 hours. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on aminopropylated silica gel (eluent: dichloromethane-ethyl acetate) to give 151.4 mg of 2-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetamide.

reactant | [2-[2-(5-cyano-2-methoxybenzene-sulfonylamino)ethyl]-5-isopropylphenoxy]acetic acid | 0.169 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)O)C=C(C=C1)C(C)C)OC | C21H24N2O6S
reactant | ammonium chloride | 41.8 mg | [Cl-].[NH4+]
reactant | 1-hydroxybenzotriazole monohydrate | 79.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 0.272 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.112 g | Cl.CN(CCCN=C=NCC)C
solvent | water | O | H2O
product | 2-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetamide | 151.4 mg | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(OCC(=O)N)C=C(C=C1)C(C)C)OC | C21H25N3O5S
